US03987047
1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride
11 gm (51.7 millimols) of 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline were dissolved in 275 ml of hot benzene, and then a solution of 9.8 ml (103.4 millimols) of ethyl chloroformate in 70 ml of benzene were simultaneously added dropwise. After refluxing the resulting mixture for 2 hours, 150 ml of ice water were added to the cooled reaction mixture, and the aqueous mixture was made alkaline with 2 N sodium hydroxide. The benzene layer was separated and the aqueous layer was extracted with chloroform. The combined benzene and chloroform phases were dried over sodium sulfate, the solvents were distilled off, and the residual oil was admixed with ether, whereupon 11 gm (75% of theory) of the base, m. p. 126° C., crystallized out. For conversion into the hydrochloride, 11 gm of the base were dissolved in 60 ml of isopropanol, the solution was filtered, and 10 ml of isopropanolic hydrochloric acid were added. The hydrochloride crystallized out of the hot solution. Yield: 12 gm (72% of theory); m.p. 247° C. (decomp.).

reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | 51.7 millimols, 11 gm | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | ethyl chloroformate | 103.4 millimols, 9.8 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | benzene | 275 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | InChI=1S/C17H20N2O2.ClH/c1-3-21-17(20)19-10-8-14-12(2)13-6-4-5-7-15(13)18-16(14)9-11-19;/h4-7H,3,8-11H2,1-2H3;1H
